US04529792
1. Synthesis of 1,12-di(hydroxyacetamido)-4,9-dioxadodecane
4,9-Dioxadodecane-1,12-diamine (22.8 g, 0.112 mole) was placed in a 250 ml round bottom flask and glycolic acid (17.0 g, 0.224 mole) added portion-wise with stirring and cooling. The resultant liquid was heated in an oil bath to 185° C. whereupon distillation of water occurred. Heating was continued at 185° to 195° C. for 2 hours after which time distillation of water subsided and the liquid was poured into a crystallization dish. The resultant oil slowly crystallized in the form of large white clusters; yield 35.5 g (99.3%); m.p. 67°-71° C. The solid was recrystallized from cold absolute methanol to give a white, crystalline product; m.p. 74°-77° C.; infrared (Nujol), 1120 cm-1, 1625 cm-1, 3250 cm-1 ; proton nuclear magnetic resonance (CDCl3 /TMS, 100 MHz), δ1.55-1.95 (complex multiplet, 8 protons), δ3.30-3.65 (complex multiplet, 12 protons), δ4.03 (singlet, 4 protons), δ4.98 (broad singlet, 2 protons), δ7.51 (broad triplet, 2 protons).

reactant | 4,9-Dioxadodecane-1,12-diamine | 0.112 mole, 22.8 g | C(CCOCCCCOCCCN)N | C10H24N2O2
reactant | glycolic acid | 0.224 mole, 17.0 g | C(CO)(=O)O | C2H4O3
solvent | water | O | H2O
product | 1,12-di(hydroxyacetamido)-4,9-dioxadodecane | OCC(=O)NCCCOCCCCOCCCNC(CO)=O | C14H28N2O6
